US08217176B2
Production of N-[1-(hydroxyacetyl)pyrrolidin-3-yl]-3-methoxy-1-methyl-4-oxo-5-(2-oxo-2-phenylethyl)-4,5-dihydro-1H-pyrrolo[3,2-c]quinoline-2-carboxamide
To a mixture of the thus-obtained 3-methoxy-1-methyl-4-oxo-5-(2-oxo-2-phenylethyl)-N-pyrrolidin-3-yl-4,5-dihydro-1H-pyrrolo[3,2-c]quinoline-2-carboxamide (153 mg, 0.327 mmol), triethylamine (99.7 μL, 0.720 mmol) and THF (3 mL) was added acetoxyacetyl chloride (38.7 μL, 0.360 mmol) at 0° C., and the mixture was stirred at room temperature for 15 hr. The reaction mixture was diluted with ethyl acetate, washed with water and saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was purified by aminosilica gel chromatography (eluate; ethyl acetate). The obtained oil was dissolved in THF (4 mL) and ethanol (12 mL), 8N aqueous sodium hydroxide solution (1 mL) was added and the mixture was stirred at room temperature for 1.5 hr. The reaction mixture was diluted with water, acidified with 1N hydrochloric acid (8.5 mL), and extracted twice with ethyl acetate. The extract was combined, washed with saturated brine, dried over magnesium sulfate and concentrated under reduced pressure. The residue was purified by aminosilica gel chromatography (eluate; ethyl acetate/methanol=10/0-9/1). Recrystallization of the obtained solid from ethyl acetate-THF gave the title compound (121 mg, 72%) as a white powder.

reactant | 3-methoxy-1-methyl-4-oxo-5-(2-oxo-2-phenylethyl)-N-pyrrolidin-3-yl-4,5-dihydro-1H-pyrrolo[3,2-c]quinoline-2-carboxamide | 0.327 mmol, 153 mg | COC1=C(N(C2=C1C(N(C=1C=CC=CC21)CC(C2=CC=CC=C2)=O)=O)C)C(=O)NC2CNCC2 | C26H26N4O4
reactant | triethylamine | 0.720 mmol, 99.7 μL | C(C)N(CC)CC | C6H15N
reactant | THF | 3 mL | C1CCOC1 | C4H8O
reactant | acetoxyacetyl chloride | 0.360 mmol, 38.7 μL | C(C)(=O)OCC(=O)Cl | C4H5ClO3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[1-(hydroxyacetyl)pyrrolidin-3-yl]-3-methoxy-1-methyl-4-oxo-5-(2-oxo-2-phenylethyl)-4,5-dihydro-1H-pyrrolo[3,2-c]quinoline-2-carboxamide | 121 mg, 72% | OCC(=O)N1CC(CC1)NC(=O)C1=C(C=2C(N(C=3C=CC=CC3C2N1C)CC(C1=CC=CC=C1)=O)=O)OC | C28H28N4O6
